US07855201B2
Step 1: 2,2-difluoropropane-1,3-diyl bis(trifluoromethanesulfonate)
To an ice cold solution (0° C. internal temp) of 1.6 g of 2,2-difluoro-1,3-propanediol and 5 mL of anhydrous pyridine in 100 mL of anhydrous ether was added dropwise 7.2 mL of triflic anhydride dropwise, keeping the internal temperature below 15° C. After 20 min stirring in the ice bath, the mixture was allowed to warm to room temperature and stirred for 3 h. The mixture was then filtered, concentrated on the rotovap, redissolved in anhydrous ether, refiltered and concentrated again on the rotovap. Drying under vacuum gave a brown oil.

reactant | 2,2-difluoro-1,3-propanediol | 1.6 g | FC(CO)(CO)F | C3H6F2O2
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 7.2 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2,2-difluoropropane-1,3-diyl bis(trifluoromethanesulfonate) | FC(S(=O)(=O)OCC(COS(=O)(=O)C(F)(F)F)(F)F)(F)F | C5H4F8O6S2
